US06551682B1
(11) Production of 10-[3,5-dichloro-4,6-bis(2,2,2-trifluoroethoxy)-2-pyridylazo]-9-phenanthrol (No. L77)
Next, a reaction flask was loaded with acetic acid (30 ml) and 9,10-phenanthrenequinone (1.25 g), and the temperature was raised to 105° C. with stirring to dissolve 9,10-phenanthrenequinone. To this mixture, 3,5-dichloro-2-hydrazino-4,6-bis(2,2,2-trifluoroethoxy)pyridine (2.5 g) was added in 15 minutes. After stirring at 100 to 105° C. for two hours, the heating was stopped and the reaction mixture was left to cool and filtrated. The filtrated crystals were stirred for 30 minutes in methanol (100 ml), and then filtrated and dried to give intended crystals (2.3 g).

reactant | 9,10-phenanthrenequinone | 1.25 g | C1=CC=CC=2C3=CC=CC=C3C(C(C12)=O)=O | C14H8O2
reactant | 3,5-dichloro-2-hydrazino-4,6-bis(2,2,2-trifluoroethoxy)pyridine | 2.5 g | ClC=1C(=NC(=C(C1OCC(F)(F)F)Cl)OCC(F)(F)F)NN | C9H7Cl2F6N3O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 10-[3,5-dichloro-4,6-bis(2,2,2-trifluoroethoxy)-2-pyridylazo]-9-phenanthrol | ClC=1C(=NC(=C(C1OCC(F)(F)F)Cl)OCC(F)(F)F)N=NC1=C(C2=CC=CC=C2C=2C=CC=CC12)O | C23H13Cl2F6N3O3
